US07160887B1
A mixture of tert-butyl[3-(2-amino-5-chlorophenoxy)benzyl]carbamate (3.48 g, 10 mmols), 4-tert-butyldimethylsilyloxybenzaldehyde (2.19 g, 12 mmols), acetic acid (1 ml) and methanol (40 ml) was stirred at room temperature for 1 hour, to which was added sodium cyanoborohydride (0.75 g, 12 mmols). Next, this was stirred at room temperature for 3 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The extract was washed with water, then dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified through silica gel column chromatography to give an oil of tert-butyl[3-[2-(4-tert-butyldimethylsilyloxybenzylamino)-5-chlorophenoxy]benzyl]carbamate (2.40 g, 42.4%).

reactant | tert-butyl[3-(2-amino-5-chlorophenoxy)benzyl]carbamate | 10 mmols, 3.48 g | C(C)(C)(C)OC(NCC1=CC(=CC=C1)OC1=C(C=CC(=C1)Cl)N)=O | C18H21ClN2O3
reactant | 4-tert-butyldimethylsilyloxybenzaldehyde | 12 mmols, 2.19 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=O)C=C1 | C13H20O2Si
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 12 mmols, 0.75 g | C(#N)[BH3-].[Na+]
solvent | water | O | H2O
solvent | methanol | 40 ml | CO | CH4O
product | tert-butyl[3-[2-(4-tert-butyldimethylsilyloxybenzylamino)-5-chlorophenoxy]benzyl]carbamate | 2.40 g, 42.4% | C(C)(C)(C)OC(NCC1=CC(=CC=C1)OC1=C(C=CC(=C1)Cl)NCC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)=O | C31H41ClN2O4Si
